US07199150B2
Subsequently, to absolution of 2-(N,N-dimethylaminomethyl)-1-methylpyrrole (30.00 g, 217.5 mmol) obtained above in ethanol (220 ml) was added methyl iodide (16.2 ml, 260–2 mmol) with stirring under ice-cooling, and then the resulting mixture was stirred at room temperature for 2 hours. After stirring, ethyl acetate (220 ml) was added to the reaction mixture. The crystals precipitated were collected by filtration, washed with ethyl acetate and dried to afford (1-methylpyrrol-2-yl)methyl trimethylammonium iodide (55.34 g, yield: 91%).

reactant | 2-(N,N-dimethylaminomethyl)-1-methylpyrrole | 217.5 mmol, 30.00 g | CN(C)CC=1N(C=CC1)C | C8H14N2
reactant | methyl iodide | 260–2 mmol, 16.2 ml | CI | CH3I
reactant | ethyl acetate | 220 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 220 ml | C(C)O | C2H6O
product | (1-methylpyrrol-2-yl)methyl trimethylammonium iodide | 55.34 g, yield: 91% | [I-].CN1C(=CC=C1)C[N+](C)(C)C | InChI=1S/C9H17N2.HI/c1-10-7-5-6-9(10)8-11(2,3)4;/h5-7H,8H2,1-4H3;1H/q+1;/p-1
